US09029361B2
tert-Butyl (8R,9aR)-8-[(5-cyclopropylpyrazin-2-yl)oxy]-5-oxohexahydro-1H-pyrrolo[1,2-a][1,4]diazepine-2(3H)-carboxylate (50 mg, 0.103 mmol, Part A) was dissolved in methanol (1.0 mL) in a 20-mL scintillation vial. In a separate 4-mL vial, acetyl chloride (0.090 ml, 1.29 mmol) was added to methanol (0.5 mL) at 0° C., and the resulting acidic solution was added to the reaction vial. The vial was capped, and the reaction mixture was heated to 60° C. for 0.5 hour. The reaction mixture was then cooled to room temperature and concentrated to provide (8R,9aR)-8-[(5-cyclopropylpyrazin-2-yl)oxy]octahydro-5H-pyrrolo[1,2-a][1,4]diazepin-5-one hydrochloride that was used in the next step without additional purification.

reactant | tert-Butyl (8R,9aR)-8-[(5-cyclopropylpyrazin-2-yl)oxy]-5-oxohexahydro-1H-pyrrolo[1,2-a][1,4]diazepine-2(3H)-carboxylate | C1(CC1)C=1N=CC(=NC1)O[C@@H]1C[C@H]2N(C(CCN(C2)C(=O)OC(C)(C)C)=O)C1 | C20H28N4O4
reactant | acetyl chloride | 1.29 mmol, 0.090 ml | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 1.0 mL | CO | CH4O
solvent | methanol | 0.5 mL | CO | CH4O
product | (8R,9aR)-8-[(5-cyclopropylpyrazin-2-yl)oxy]octahydro-5H-pyrrolo[1,2-a][1,4]diazepin-5-one hydrochloride | Cl.C1(CC1)C=1N=CC(=NC1)O[C@@H]1C[C@H]2N(C(CCNC2)=O)C1 | InChI=1S/C15H20N4O2.ClH/c20-15-3-4-16-6-11-5-12(9-19(11)15)21-14-8-17-13(7-18-14)10-1-2-10;/h7-8,10-12,16H,1-6,9H2;1H/t11-,12-;/m1./s1
